US07812051B2
Preparation of 4′-(hydroxymethyl)-2,2-dimethyl-3,4-dihydro-2H,5H-spiro[benzo[h]chromene-6,2′-[1,3]dioxolan]-5-one
To a solution of 2,2-dimethyl-3,4-dihydro-2H-benzo[h]chromene-5,6-dione (1.21 g, 5 mmol) in benzene (12 ml) is added glycerol (0.92 g, 10 mmol) and p-toluenesulfonic acid monohydrate (0.28 g, 1.5 mmol). The resulting mixture is refluxed for 6 hours. After removal of the solvent, product is purified by column chromatography on silica gel eluting with 30% ethyl acetate in methylene chloride to provide 0.57 g (36% yield) as a light yellow solid, which is a mixture of diasteromers. M.p. 44-46° C.; 400 MHz 1H NMR (CDCl3) δ: 1.41 (s, 6H), 1.73-1.82 (m, 2H), 2.36-2.42 (m, 1H), 2.48-2.54 (m, 1H), 3.72-3.78 (m, 1H), 4.18 (d, J=2.5 Hz, 1H), 4.20-4.29 (m, 1H), 4.40 (t, J=8.0 Hz, 1H), 4.71-4.74 (m, 1H), 4.85 (d, J=8.8 Hz, 1H), 7.38-7.44 (m, 2H), 7.54-7.56 (m, 1H), 7.75-7.78 (m, 1H); LCMS: Calc. for C18H21O5: 217; Found 217.

reactant | 2,2-dimethyl-3,4-dihydro-2H-benzo[h]chromene-5,6-dione | 5 mmol, 1.21 g | CC1(OC=2C3=C(C(C(C2CC1)=O)=O)C=CC=C3)C | C15H14O3
reactant | glycerol | 10 mmol, 0.92 g | OCC(O)CO | C3H8O3
reactant | p-toluenesulfonic acid monohydrate | 1.5 mmol, 0.28 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 12 ml | C1=CC=CC=C1 | C6H6
product | 4′-(hydroxymethyl)-2,2-dimethyl-3,4-dihydro-2H,5H-spiro[benzo[h]chromene-6,2′-[1,3]dioxolan]-5-one | 36% yield | OCC1OC2(OC1)C(C=1CCC(OC1C1=C2C=CC=C1)(C)C)=O | C18H20O5
